US07557114B2
(a) 5-Chloro-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a stirred solution 0.81 mmol 5-chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A61(a)) in 40 ml methanol was added 0.41 mmol platinum(IV) oxide and the mixture was stirred under an atmosphere of hydrogen for 16 h. The reaction mixture was then filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid (38% yield). MS (m/e): 284.3 ({37Cl}[M+H−Me2C═CH2]+, 49%), 282.3 ({35Cl} [M+H−Me2C═CH2]+, 100%).

reactant | 5-chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C=1CCOCC1 | C18H22ClNO3
solvent | methanol | 40 ml | CO | CH4O
catalyst | platinum(IV) oxide | 0.41 mmol | [Pt](=O)=O
product | 5-Chloro-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 38% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C1CCOCC1 | C18H24ClNO3
